simulator lang=spectre
global 0
; NOTE: replace with your own PDK model file. Original: CSMC 0.18um, sm1816m50v13_usage.scs, section=tt_lib
include "/path/to/your/pdk/model.scs" section=tt_lib

subckt TCFC VINN VINP VOUT IBIAS VDD VSS
PM11 (net047 IBIASP1 VDD VDD) mp18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
PM10 (IBIASP1 IBIASP2 net047 VDD) mp18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
PM18 (net70 net036 VDD VDD) mp18 w=1.851e-05 l=1.214e-06 m=13 //// *Load* *gm1* ``PM19``
PM19 (net036 net036 VDD VDD) mp18 w=1.851e-05 l=1.214e-06 m=13 //// *Load* *gm1* ``PM18``
PM13 (net47 IBIASP2 net044 VDD) mp18 w=1.958e-05 l=1.239e-06 m=42 //// *Load* *gm2*  *gmt-Input*
PM8 (net039 net70 VDD VDD) mp18 w=1.99e-05 l=6.732e-07 m=42 //// *Input* *gm2*
PM7 (net044 IBIASP1 VDD VDD) mp18 w=1.977e-05 l=1.165e-06 m=40 //// *Load* *gm2*
PM2 (VOUT net70 VDD VDD) mp18 w=1.964e-05 l=9.788e-07 m=46 //// *Load* *gm3*
NM24 (net039 IBIAS net43 VSS) mn18 w=1.905e-05 l=1.724e-06 m=11 //// *Load* *gm2*
NM23 (net045 IBIAS2 VSS VSS) mn18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
NM22 (IBIASP2 IBIAS net045 VSS) mn18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
NM21 (net43 IBIAS2 VSS VSS) mn18 w=1.969e-05 l=6.458e-07 m=48 //// *Load* *gm2*
NM17 (net036 VINN net035 VSS) mn18 w=1.955e-05 l=1.431e-06 m=35 //// *Input* *gm1* ``NM18``
NM18 (net70 VINP net035 VSS) mn18 w=1.955e-05 l=1.431e-06 m=35 //// *Input* *gm1* ``NM17``
NM19 (net035 IBIAS2 VSS VSS) mn18 w=1.997e-05 l=9.403e-07 m=3 //// *Current tail* *gm1*
NM9 (net47 net039 VSS VSS) mn18 w=1.96e-05 l=1.159e-06 m=24 //// *Load* *gm2*
NM6 (net049 IBIAS2 VSS VSS) mn18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
NM4 (VOUT net47 VSS VSS) mn18 w=1.956e-05 l=5.818e-07 m=41 //// *Input* *gm3*
NM8 (net43 net039 VSS VSS) mn18 w=1.251e-05 l=9.623e-07 m=1 //// *Load* *gm2*
NM5 (IBIAS2 IBIAS net049 VSS) mn18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
C3 (net044 VOUT) capacitor c=2.259e-12 m=1 ////Miller cap 2
C0 (net70 VOUT) capacitor c=2.938e-12 m=1 ////Miller cap 1
R1 (IBIASP1 IBIASP2) resistor r=666666.6666666667////Bias Resistor, should not change
R0 (IBIAS IBIAS2) resistor r=666666.6666666667////Bias Resistor, should not change
ends TCFC



            V0 (VSS 0) vsource dc=0 type=dc
            V1 (VDD 0) vsource dc=1.8 type=dc
            C0 (VOUT VSS) capacitor c=3e-10
            I0 (VDD IBIAS) isource dc=3e-07 type=dc
            I1 (VOUT VINP VOUT IBIAS VDD VSS) TCFC
            V2 (VINP 0) vsource type=pulse val0=1.2 val1=0.6 period=5e-05 rise=1p fall=1p
        